US06069159
3-Propylthio-4-hydroxy-1,2,5-thiadiazole
A mixture of 3-chloro-4-propylthio-1,2,5-thiadiazole (10 g), 2 N NaOH (100 mL), and DMSO (10 mL) was heated to reflux for 24 h. The solution was cooled and extracted with ether. The aqueous fraction was acidified with conc. HCl and cooled in ice-water for 3 h. The resulting solid was collected, washed with a small amount of cold water to give a white solid (8.15 g). Recrystallization from heptane gave white crystals, m.p. 84-85° C.

reactant | 3-chloro-4-propylthio-1,2,5-thiadiazole | 10 g | ClC1=NSN=C1SCCC | C5H7ClN2S2
reactant | NaOH | 2 N, 100 mL | [OH-].[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 3-Propylthio-4-hydroxy-1,2,5-thiadiazole | 8.15 g | C(CC)SC1=NSN=C1O | C5H8N2OS2
